US08258306B2
To a solution of (R)-tert-butyl 4-(1-(4-chlorophenyl)cyclohexyl)-2-methylpiperazine-1-carboxylate (0.80 g, 2.03 mmol) in 1,4-dioxane (5 mL) at 0° C. was added dropwise a saturated solution dioxane-HCl (4 mL). The reaction mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was washed with ethyl acetate. The pH of the residue was adjusted to 7 using aqueous 10% sodium carbonate solution and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford 0.5 g of (R)-1-(1-(4-chlorophenyl)cyclohexyl)-3-methylpiperazine.

reactant | (R)-tert-butyl 4-(1-(4-chlorophenyl)cyclohexyl)-2-methylpiperazine-1-carboxylate | 2.03 mmol, 0.80 g | ClC1=CC=C(C=C1)C1(CCCCC1)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)C | C22H33ClN2O2
reactant | dioxane-HCl | 4 mL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(1-(4-chlorophenyl)cyclohexyl)-3-methylpiperazine | 0.5 g | ClC1=CC=C(C=C1)C1(CCCCC1)N1C[C@H](NCC1)C | C17H25ClN2
